US05389633
Production of ethyl 4-chloro-2,2-dimethylbutyrate
To a solution of 22.2 ml of diisopropylamine in 150 ml of tetrahydrofuran was added 93.6 ml of 1.6M n-butyllithium-hexane with stirring at -5° to 0° C. and the mixture was stirred for 30 minutes. The reaction mixture was cooled to -78° C. and 19.0 ml of ethyl isobutyrate was added dropwise. The mixture was then further stirred for 45 minutes, after which a solution of 11.9 ml of 1-bromo-2-chloroethane in 10 ml of tetrahydrofuran was added dropwise. The reaction mixture was stirred at -78° C. for 1 hour and, then, at room temperature for 2 hours. After an excess amount of an aqueous solution of ammonium chloride was added, the mixture was extracted with ethyl acetate. The extract was washed with water and dried (MgSO4) and the solvent was distilled off. Finally, the residue was distilled under reduced pressure to provide 24.7 g of the title compound as colorless oil. b.p. 54°-56° C./0.25 mmHg

reactant | diisopropylamine | 22.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl isobutyrate | 19.0 ml | C(C(C)C)(=O)OCC | C6H12O2
reactant | 1-bromo-2-chloroethane | 11.9 ml | BrCCCl | C2H4BrCl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 4-chloro-2,2-dimethylbutyrate | 24.7 g | ClCCC(C(=O)OCC)(C)C | C8H15ClO2
